US03953500
In 50 ml. of ether is dissolved 2.7 g. of 4-benzoylindan-1-carboxylic acid and, then, an ethereal solution of diazomethane is added until the yellow color of the solution has not disappeared. The solution is then allowed to stand for 30 minutes, after which the excess diazomethane and the ether are distilled off. The methyl 4-benzoylindan-1-carboxylate thus obtained as the distillation residue is dissolved in 50 ml. of dimethylsulfoxide and under stirring, the solution is added dropwise to 100 ml. of dimethylsulfoxide containing 1.5 g. of sodium hydride over a period of 15 minutes.

reactant | 4-benzoylindan-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)C(=O)O | C17H14O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | methyl 4-benzoylindan-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)C(=O)OC | C18H16O3
